US04322417
To a solution of 4-amino-3-mercapto[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]-benzene in ethanol containing a trace of sodium ethoxide can be added propylene oxide to the cold solution. An exothermic reaction occurs. When reaction subsides, the solution is heated on the steam bath. The product can be isolated and distilled to give 3,4-dihydro-3-methyl-7-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)-ethyl]-2H-1,4-benzothiazine.

reactant | 4-amino-3-mercapto[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]-benzene | NC1=C(C=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)S | C9H7F6NOS
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | propylene oxide | C1C(C)O1 | C3H6O
solvent | ethanol | C(C)O | C2H6O
product | 3,4-dihydro-3-methyl-7-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)-ethyl]-2H-1,4-benzothiazine | CC1CSC2=C(N1)C=CC(=C2)C(C(F)(F)F)(C(F)(F)F)O | C12H11F6NOS
